US08912169B2
Step 3: Synthesis of 8-(2-(benzyloxy)ethyl)-1,4-dioxaspiro[4.5]decane
To a precooled (0° C.) suspension of NaH (60% in mineral, 0.44 g, 11 mmol) in THF (20 mL) was added 2-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol (1.86 g, 10 mmol) in THF (10 mL). The resulting solution was stirred at 0° C. for 10 min, and allowed to warm to RT, and stirred for 1 h. To the above mixture was added benzyl bromide (1.78 g, 15 mmol) and the resulting mixture was stirred at rt overnight. The reaction was quenched by addition of saturated aqueous NH4Cl solution, extracted with EtOAc, washed with brine, dried over Na2SO4. Purification by flash column chromatography (eluent: 20% EtOAc in hexanes to 30%) gave the product (2.3 g, 83%). LC/MC: 277.1 (MH)+.

reactant | NaH | 11 mmol, 0.44 g | [H-].[Na+]
reactant | 2-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol | 10 mmol, 1.86 g | O1CCOC12CCC(CC2)CCO | C10H18O3
reactant | benzyl bromide | 15 mmol, 1.78 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-(2-(benzyloxy)ethyl)-1,4-dioxaspiro[4.5]decane | 2.3 g, 83% | C(C1=CC=CC=C1)OCCC1CCC2(OCCO2)CC1 | C17H24O3
